US08222262B2
Sodium hydride (325 mg, 8.12 mmol) was added to a solution of indazole (800 mg, 6.77 mmol) in N,N-dimethylformamide (10 mL) and stirred for 30 minutes. (4-Chloro-phenyl)-(6-fluoro-pyridin-2-yl)-amine (1.55 g, 6.77 mmol) was added and the reaction mixture was stirred at 80° C. overnight. The mixture was poured into a stirred ice-water solution and extracted with ethyl acetate. The combined organic phases were dried over magnesium sulphate, filtrated and concentrated in vacuo. The crude product was purified by column chromatography with ethyl acetate-heptane as eluent to give (4-chloro-phenyl)-(6-indazol-1-yl-pyridin-2-yl)-amine (230 mg, 11%) as an yellow solid. LC-ESI-HRMS of [M+H]+ shows 321.0901 Da. Calc. 321.090699 Da, dev. −1.9 ppm

reactant | Sodium hydride | 8.12 mmol, 325 mg | [H-].[Na+]
reactant | indazole | 6.77 mmol, 800 mg | N1N=CC2=CC=CC=C12 | C7H6N2
reactant | (4-Chloro-phenyl)-(6-fluoro-pyridin-2-yl)-amine | 6.77 mmol, 1.55 g | ClC1=CC=C(C=C1)NC1=NC(=CC=C1)F | C11H8ClFN2
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | (4-chloro-phenyl)-(6-indazol-1-yl-pyridin-2-yl)-amine | 230 mg, 11% | ClC1=CC=C(C=C1)NC1=NC(=CC=C1)N1N=CC2=CC=CC=C12 | C18H13ClN4
